US06313094B1
[Process 2] Boc-Thz-Valol
Deprotection of 94 mg of the compound obtained by the process 1 was performed similarly to that in Example 30 (Process 2), and the obtained product was dissolved in 3 ml of DMF and neutralized with 88.9 μl of triethylamine under ice cooling. To the neutralized solution, 164 mg of Boc-Thz-OH, 108 mg of HOBt and 147 mg of EDC hydrochloride were added and the resultant mixture was stirred for 2 hr. The reaction mixture was treated similarly to that in Example 132 (Process 1) to give 50 mg of the title compound.

reactant | Boc-Thz-OH | 164 mg | N1([C@H](C(=O)O)CSC1)C(=O)OC(C)(C)C | C9H15NO4S
reactant | HOBt | 108 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 147 mg | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 88.9 μl | C(C)N(CC)CC | C6H15N
product | Boc-Thz-Valol | 50 mg | N1([C@H](C(=O)N[C@@H](C(C)C)CO)CSC1)C(=O)OC(C)(C)C | C14H26N2O4S
